US05294618
Following the procedure of Example 1, step 3, 1.04 g (7.19 mmol) of 1-methyl-3,4-dihydronaphthalene in 7 ml of acetic acid was reacted with 2.33 ml of 37% formaldehyde solution and 1.58 g of propylamine hydrochloride. Work up gave 1.98 g of crude 1,2,3,4,5,6-hexahydro-3-propyl-benz[f]isoquinoline. Following the procedure of Example 2, this was reacted with 0.435 g of lithium wire in 250 ml of liquid ammonia, 40 ml of anhydrous THF and 1 ml of aniline. Chromatography on flash silica, eluting with 5-10% methanol/dichloromethane, then on alumina, eluting with 2-5% ethyl acetate/petroleum ether, gave 0.497 g (30%) of the title product as a colourless oil. The hydrochloride salt was made using ethereal hydrogen chloride. Upon evaporation of the solvent, the title product hydrochloride was obtained as a white solid, m.p. 257°-259° C. (dec). NMR δ(D2O) 1.00 (3H, t, J=7.4 Hz), 1.57 (1H, m), 1.68-1.92 (5H, m), 2.66-2.76 (2H, m), 2.87-2.95 (3H, m), 3.12-3.16 (3H, m), 3.63 (1H, m), 3.77 (1H, m), 7.22-7.31 (3H, m), 7.35-7.38 (1H, m). m/z (CI+, NH3) 230 (M+H)+, 200 (M-CH2CH3)+. Analysis calcd. for C16H24ClN: C, 72.29; H, 9.10; N, 5.27%. Found: C, 72.07; H, 9.01; N, 5.19%.

reactant | 1-methyl-3,4-dihydronaphthalene | 7.19 mmol, 1.04 g | CC1=CCCC2=CC=CC=C12 | C11H12
reactant | formaldehyde | 2.33 ml | C=O | CH2O
reactant | propylamine hydrochloride | 1.58 g | Cl.C(CC)N
reactant | acetic acid | 7 ml | C(C)(=O)O | C2H4O2
product | 1,2,3,4,5,6-hexahydro-3-propyl-benz[f]isoquinoline | 1.98 g | C(CC)N1CC=2CCC3=C(C2CC1)C=CC=C3 | C16H21N
